US07030128B2
Tetrakis(triphenylphosphine)palladium(0) (5 mol %) was added to a degassed and stirred mixture of 2,6-dibromopyridine (3.78 g, 15.6 mmol) and thiophene-3-boronic acid (2.20 g, 16.8 mmol) in tetrahydrofuran (40 ml) under an atmosphere of nitrogen then heated to reflux for 24 h. Solvent was removed in vacuo and purification by chromatography on silica gel eluting with a gradient of diethyl ether-isohexane (5-10%) gave 2-bromo-6-(thien-3-yl)pyridine (2.20 g) as a white solid: δH (400 MHz, CDCl3) 7.32-7.41 (2H, m), 7.53-7.55 (2H, m), 7.61-7.64 (1H, m), 7.94-7.96 (1H, m); m/z (ES+) 240/242 (M++H).

reactant | 2,6-dibromopyridine | 15.6 mmol, 3.78 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | thiophene-3-boronic acid | 16.8 mmol, 2.20 g | S1C=C(C=C1)B(O)O | C4H5BO2S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-bromo-6-(thien-3-yl)pyridine | 2.20 g | BrC1=NC(=CC=C1)C1=CSC=C1 | C9H6BrNS
